US03931205
4.75 g of 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid is dissolved in a solution of 0.88 g of sodium hydroxide in 25 ml of water. To the solution are added 5 g of sodium borohydride and a small amount of toluene, and the mixture is heated under reflux for 3 hours. The reaction mixture is adjusted to pH 3 by adding concentrated hydrochloric acid under ice cooling. The resulting crystalline precipitate is filtered off, washed with water, and recrystallized from aqueous dioxane to give 2.5 g of 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid as white needles melting at 182.5°-183.5°C.

reactant | 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid | 4.75 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(C(=O)O)C | C15H11NO4
reactant | sodium borohydride | 5 g | [BH4-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 0.88 g | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid | 2.5 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)O)C | C15H13NO3
